### PR TITLE
[Merged by Bors] - feat: add classes `ContinuousENorm` and `ENormed(Add)(Comm)Monoid`

### PR DESCRIPTION
**Pull request by grunweg**
and prove that these contain (commutative) `(Add)NormedGroup`s. This allows generalising results from normed spaces/normed groups to `ENNReal` also.

A future PR will generalise lemmas in mathlib to use these new classes. This PR only changes a few lemmas, to prove that these definitions are set up right.

From the Carleson project.

---------

There is a [zulip thread](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Importing.20ENNReal.20in.20normed.20groups) for discussing the large import.
Re-done version of #21422.

- [x] depends on: #22215 (to fix an unrelated simpNF linter timeout downstream, exposed by this PR)
- [x] depends on: #22562 (import changes, as preliminary clean-up)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -4,8 +4,10 @@ Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Patrick Massot, Johannes Hölzl, Yaël Dillies
 -/
 import Mathlib.Analysis.Normed.Group.Seminorm
+import Mathlib.Topology.Instances.ENNReal.Defs
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Group/Basic.lean:7]: This import increase is needed to speak of a topological space structure on `ENNReal`.

Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:7]: The only way I see to avoid this is to move these definitions to `Continuity`.

Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:8]: Yael pointed out that this import was already added back in #20966 (for the same reason), and only removed in #21554 (which split that file). Hence, I would argue that keeping ENNReal out of `Basic.lean` only worked in the short-term, and this import is really needed.

File: Mathlib/Analysis/Normed/Group/Continuity.lean [hunk 2]
```diff
@@ -140,8 +169,27 @@ theorem Continuous.norm' : Continuous f → Continuous fun x => ‖f x‖ :=
...
+
+@[fun_prop]
+lemma Continuous.enorm : Continuous f → Continuous (‖f ·‖ₑ) := continuous_enorm.comp
+
+end
+
+section SeminormedGroup
+
+variable [SeminormedGroup E] [SeminormedGroup F] [SeminormedGroup G] {s : Set E} {a : E}
+
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Group/Continuity.lean:188]:
```suggestion

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 3]
```diff
@@ -90,6 +91,34 @@ lemma enorm_eq_nnnorm (x : E) : ‖x‖ₑ = ‖x‖₊ := rfl
...
 
+/-- A type `E` equipped with a continuous map `‖·‖ₑ : E → ℝ≥0∞`. -/
+class ContinuousENorm (E : Type*) [TopologicalSpace E] extends ENorm E where
+  continuous_enorm : Continuous enorm
+  -- the topology is somehow defined by the enorm.
+
+/-- An enormed monoid is an additive monoid endowed with a continuous enorm. -/
+class ENormedAddMonoid (E : Type*) [TopologicalSpace E] extends ContinuousENorm E, AddMonoid E where
+  enorm_eq_zero : ∀ x : E, ‖x‖ₑ = 0 ↔ x = 0
+  enorm_add_le : ∀ x y : E, ‖x + y‖ₑ ≤ ‖x‖ₑ + ‖y‖ₑ
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Basic.lean:102]:
```suggestion
  protected enorm_add_le : ∀ x y : E, ‖x + y‖ₑ ≤ ‖x‖ₑ + ‖y‖ₑ
```

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 4]
```diff
@@ -699,8 +728,8 @@ theorem nnnorm_mul_le' (a b : E) : ‖a * b‖₊ ≤ ‖a‖₊ + ‖b‖₊ :=
   NNReal.coe_le_coe.1 <| norm_mul_le' a b
 
 @[to_additive enorm_add_le]
-lemma enorm_mul_le' (a b : E) : ‖a * b‖ₑ ≤ ‖a‖ₑ + ‖b‖ₑ := by
-  simpa [enorm, ← ENNReal.coe_add] using nnnorm_mul_le' a b
+lemma enorm_mul_le' {E : Type*} [TopologicalSpace E] [ENormedMonoid E] (a b : E) :
+  ‖a * b‖ₑ ≤ ‖a‖ₑ + ‖b‖ₑ := ENormedMonoid.enorm_mul_le a b
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Basic.lean:732]: Can this become an earlier section?

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 5]
```diff
@@ -1171,20 +1200,23 @@ theorem nnnorm_eq_zero' : ‖a‖₊ = 0 ↔ a = 1 := by
...
+  ‖a‖ₑ = 0 ↔ a = 1 := by simp [enorm, ENormedMonoid.enorm_eq_zero]
 
 @[to_additive nnnorm_ne_zero_iff]
 theorem nnnorm_ne_zero_iff' : ‖a‖₊ ≠ 0 ↔ a ≠ 1 :=
   nnnorm_eq_zero'.not
 
 @[to_additive enorm_ne_zero]
-lemma enorm_ne_zero' : ‖a‖ₑ ≠ 0 ↔ a ≠ 1 := enorm_eq_zero'.ne
+lemma enorm_ne_zero' {E : Type*} [TopologicalSpace E] [ENormedMonoid E] {a : E} :
+  ‖a‖ₑ ≠ 0 ↔ a ≠ 1 := enorm_eq_zero'.ne
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1212]:
```suggestion
    ‖a‖ₑ ≠ 0 ↔ a ≠ 1 := enorm_eq_zero'.ne
```

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 6]
```diff
@@ -1171,20 +1200,23 @@ theorem nnnorm_eq_zero' : ‖a‖₊ = 0 ↔ a = 1 := by
...
 
 @[to_additive (attr := simp) nnnorm_pos]
 lemma nnnorm_pos' : 0 < ‖a‖₊ ↔ a ≠ 1 := pos_iff_ne_zero.trans nnnorm_ne_zero_iff'
 
 @[to_additive (attr := simp) enorm_pos]
-lemma enorm_pos' : 0 < ‖a‖ₑ ↔ a ≠ 1 := pos_iff_ne_zero.trans enorm_ne_zero'
+lemma enorm_pos' {E : Type*} [TopologicalSpace E] [ENormedMonoid E] {a : E} :
+  0 < ‖a‖ₑ ↔ a ≠ 1 := pos_iff_ne_zero.trans enorm_ne_zero'
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1219]:
```suggestion
    0 < ‖a‖ₑ ↔ a ≠ 1 := pos_iff_ne_zero.trans enorm_ne_zero'
```

**Review by YaelDillies — COMMENTED** [review]
All you need is `ENNReal.isOpenEmbedding_coe`, right? Does reducing imports to `Topology.Instances.ENNReal.Defs` until it proves not much more than `ENNReal.isOpenEmbedding_coe` bring the import increase to a reasonable amount?

**Comment by grunweg** [comment]
> All you need is `ENNReal.isOpenEmbedding_coe`, right? Does reducing imports to `Topology.Instances.ENNReal.Defs` until it proves not much more than `ENNReal.isOpenEmbedding_coe` bring the import increase to a reasonable amount?

I just tried: you can pare down `ENNReal.Defs` to the absolute minimum, which is this.
```
/-
Copyright (c) 2017 Johannes Hölzl. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Johannes Hölzl
-/
import Mathlib.Topology.Instances.NNReal.Defs

/-!
# Topology on extended non-negative reals
-/

noncomputable section

open Metric Set Topology
open scoped NNReal

namespace ENNReal

/-- Topology on `ℝ≥0∞`.

Note: this is different from the `EMetricSpace` topology. The `EMetricSpace` topology has
`IsOpen {∞}`, while this topology doesn't have singleton elements. -/
instance : TopologicalSpace ℝ≥0∞ := Preorder.topology ℝ≥0∞

instance : OrderTopology ℝ≥0∞ := ⟨rfl⟩

theorem isEmbedding_coe : IsEmbedding ((↑) : ℝ≥0 → ℝ≥0∞) :=
  coe_strictMono.isEmbedding_of_ordConnected <| by rw [range_coe']; exact ordConnected_Iio

end ENNReal
```

**Comment by grunweg** [comment]
That leaves a very incoherent file, though - a `PreDefs.lean` file, so to speak. How would you deal with this?
Create a new file `Defs.lean` (the one above) and rename the current `Defs.lean` to `Basic.lean`?

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:736]: I have moved this result to an earlier section. The other results (the instances or the continuity statement) cannot, since they require material from a section further down).

**Comment by grunweg** [comment]
I have cherry-picked the import changes here.
`shake` hasn't run yet (but didn't have further changes on the other branch): so far it looks like we just get a reduction by 4 transitive imports (from 129 added to 125 added). Sure, I'd take that, but it's a bit disappointing. (The split might still be worth it... what do you think, @YaelDillies?)

**Comment by j-loreaux** [comment]
It seems to me the split is not worth it. Probably, we simply do need these `ENNReal` results in normed spaces, which doesn't seem so unreasonable to me. Have you asked about it on Zulip?

**Comment by grunweg** [comment]
I [have asked](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Importing.20ENNReal.20in.20normed.20groups) on zulip.

**Comment by grunweg** [comment]
I am stymied by the simpNF linter error: let's revert the import changes (which, in my understanding, shouldn't land anyway as they don't give as much benefit; an import reduction should happen differently).

**Comment by grunweg** [comment]
@JovanGerb Can I summon your magical diagnostic powers again? This PR makes the simpNF times out in `Mathlib.RingTheory.LocalRing.ResidueField.Ideal`, far downstream of what this PR modifies. The error message is `failed to synthesize FaithfulSMul R I.ResidueField`. Typing `#synth FaithfulSMul R I.ResidueField` just above that declaration with the error, I can reproduce this locally, but have no idea where this comes from.

**Comment by JovanGerb** [comment]
The issue is that `FaithfulSMul.ker_algebraMap_eq_bot` a more general simp lemma that also applies whenever `Ideal.ker_algebraMap_residueField` does. Changing the priorities so that that lemma has a lower priority fixes this problem.

However this is a more general problem with `simp`. Discrimination tree lookup gives the result (generally) in order from most general to most specific match. Type class search is smart and traverses this array backwards. `simp` is not so smart at traverses the array forwards, meaning that more general lemmas are tried before more specific lemmas. In this case that leads to this problem.

**Comment by grunweg** [comment]
@YaelDillies Do you happen to have some time to review this PR (except from the imports side)? This PR is becoming a bottle-neck for some of my work on the carleson project, so it would be great to land it soon. (This is not your personal responsibility, if you are busy I can ask others. But you took an earlier look already.)
I will turn to the imports question later today; it is not being forgotten!

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Group/Basic.lean:736]: Did you forget to commit? This result hasn't moved since I commented on it

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Group/Basic.lean:8]: #22562 should make the situation much better. Out of interest, could you check how much imports increase if you rebase your PR on Anne's branch?

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 7]
```diff
@@ -1186,20 +1215,23 @@ theorem nnnorm_eq_zero' : ‖a‖₊ = 0 ↔ a = 1 := by
   rw [← NNReal.coe_eq_zero, coe_nnnorm', norm_eq_zero']
 
 @[to_additive (attr := simp) enorm_eq_zero]
-lemma enorm_eq_zero' : ‖a‖ₑ = 0 ↔ a = 1 := by simp [enorm]
+lemma enorm_eq_zero' {E : Type*} [TopologicalSpace E] [ENormedMonoid E] {a : E} :
+  ‖a‖ₑ = 0 ↔ a = 1 := by simp [enorm, ENormedMonoid.enorm_eq_zero]
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1219]: Similarly, can those lemmas move earlier?

File: Mathlib/Analysis/Normed/Group/Continuity.lean
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Continuity.lean:1]: Worth trying to merge this back in `.Basic`, no?

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean [hunk 8]
```diff
@@ -164,7 +164,7 @@ theorem LinearMap.continuous_of_isClosed_ker (l : E →ₗ[𝕜] 𝕜)
     -- Finally, the pullback by `φ.symm` is exactly the pushforward by `φ`, so we have to prove
     -- that `φ` is continuous when `𝕜` is endowed with the pushforward by `φ` of the quotient
     -- topology, which is trivial by definition of the pushforward.
-    rw [this.symm, Equiv.induced_symm]
+    simp_rw [this.symm, Equiv.induced_symm]
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Module/FiniteDimension.lean:167]: What happened here?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 9]
```diff
@@ -977,7 +977,7 @@ theorem ae_eq_zero_of_eLpNorm'_eq_zero {f : α → E} (hq0 : 0 ≤ q) (hf : AESt
   simp only [eLpNorm'_eq_lintegral_enorm, lintegral_eq_zero_iff' (hf.enorm.pow_const q), one_div,
     ENNReal.rpow_eq_zero_iff, inv_pos, inv_neg'', hq0.not_lt, and_false, or_false] at h
   refine h.left.mono fun x hx ↦ ?_
-  simp only [Pi.zero_apply, ENNReal.rpow_eq_zero_iff, enorm_eq_zero, enorm_ne_top, false_and,
+  simp only [Pi.zero_apply, ENNReal.rpow_eq_zero_iff, _root_.enorm_eq_zero, enorm_ne_top, false_and,
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:980]:
```suggestion
  simp only [Pi.zero_apply, ENNReal.rpow_eq_zero_iff, enorm_eq_zero, enorm_ne_top, false_and,
```

File: Mathlib/MeasureTheory/Function/L1Space/Integrable.lean [hunk 10]
```diff
@@ -274,7 +274,8 @@ variable {α β μ}
 theorem Integrable.add' {f g : α → β} (hf : Integrable f μ) (hg : Integrable g μ) :
     HasFiniteIntegral (f + g) μ :=
   calc
-    ∫⁻ a, ‖f a + g a‖ₑ ∂μ ≤ ∫⁻ a, ‖f a‖ₑ + ‖g a‖ₑ ∂μ := lintegral_mono fun _ ↦ enorm_add_le _ _
+    ∫⁻ a, ‖f a + g a‖ₑ ∂μ ≤ ∫⁻ a, ‖f a‖ₑ + ‖g a‖ₑ ∂μ :=
+      lintegral_mono fun _ ↦ _root_.enorm_add_le _ _
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Function/L1Space/Integrable.lean:278]:
```suggestion
    ∫⁻ a, ‖f a + g a‖ₑ ∂μ ≤ ∫⁻ a, ‖f a‖ₑ + ‖g a‖ₑ ∂μ := lintegral_mono fun _ ↦ enorm_add_le _ _
```

File: Mathlib/Analysis/Normed/Group/Continuity.lean [hunk 11]
```diff
@@ -151,8 +203,8 @@ theorem ContinuousAt.norm' {a : α} (h : ContinuousAt f a) : ContinuousAt (fun x
 theorem ContinuousAt.nnnorm' {a : α} (h : ContinuousAt f a) : ContinuousAt (fun x => ‖f x‖₊) a :=
   Tendsto.nnnorm' h
 
-@[to_additive (attr := fun_prop) ContinuousAt.enorm]
-lemma ContinuousAt.enorm' (h : ContinuousAt f a) : ContinuousAt (‖f ·‖ₑ) a := Tendsto.enorm' h
+@[fun_prop]
+lemma ContinuousAt.enorm (h : ContinuousAt f a) : ContinuousAt (‖f ·‖ₑ) a := Tendsto.enorm' h
```
Comment (YaelDillies) [inline Mathlib/Analysis/Normed/Group/Continuity.lean:207]: Why is this not `to_additive` anymore? Is this confusingly not needing `SeminormedGroup E` from the context? Can you move this to an earlier section then?

**Review by YaelDillies — COMMENTED** [review]
Hopefully the imports increase will vanish after #22562!

File: Mathlib/Analysis/Analytic/ChangeOrigin.lean [hunk 12]
```diff
@@ -322,7 +322,7 @@ theorem HasFPowerSeriesWithinOnBall.changeOrigin (hf : HasFPowerSeriesWithinOnBa
         rw [insert_eq_of_mem hy] at this
         apply this
         simpa [add_assoc] using h'z
-      exact mem_emetric_ball_zero_iff.2 (lt_of_le_of_lt (enorm_add_le _ _) hz)
+      exact mem_emetric_ball_zero_iff.2 (lt_of_le_of_lt (_root_.enorm_add_le _ _) hz)
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Analysis/Analytic/ChangeOrigin.lean:325]: No, it's not: reverted.

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 1 above)
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:8]: I have just done so: let's wait what CI says.

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 4 above)
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:737]: I could've sworn I made this change, but I don't see it locally either. I just moved it.

File: Mathlib/Analysis/Normed/Group/Continuity.lean [hunk 13]
```diff
@@ -88,9 +98,28 @@ theorem continuous_norm' : Continuous fun a : E => ‖a‖ := by
 theorem continuous_nnnorm' : Continuous fun a : E => ‖a‖₊ :=
   continuous_norm'.subtype_mk _
 
-@[to_additive (attr := continuity, fun_prop) continuous_enorm]
-lemma continuous_enorm' : Continuous fun a : E ↦ ‖a‖ₑ :=
-  ENNReal.isOpenEmbedding_coe.continuous.comp continuous_nnnorm'
+end SeminormedGroup
+
+section Instances
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Group/Continuity.lean:103]: This section cannot move to `Basic`, and some proofs require `continuous_nnnorm'`, which is proven just a few lines above.

File: Mathlib/Analysis/Normed/Group/Continuity.lean (hunk 11 above)
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Continuity.lean:207]: This was generalised to speak about any ContinuousENorm: I have moved it (and its relatives) to `Basic.lean`.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 14]
```diff
@@ -90,6 +91,34 @@ lemma enorm_eq_nnnorm (x : E) : ‖x‖ₑ = ‖x‖₊ := rfl
 
 end ENorm
 
+/-- A type `E` equipped with a continuous map `‖·‖ₑ : E → ℝ≥0∞`. -/
+class ContinuousENorm (E : Type*) [TopologicalSpace E] extends ENorm E where
+  continuous_enorm : Continuous enorm
+  -- the topology is somehow defined by the enorm.
```
[the remark this answers is not in the document]
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:97]: Let me demote it to a future aspiration: the current definition works well so far.

File: Mathlib/Topology/Algebra/Module/FiniteDimension.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Topology/Algebra/Module/FiniteDimension.lean:167]: `rw` no longer works; it errors with
```
tactic 'rewrite' failed, motive is not type correct:
  fun _a ↦ Continuous ⇑φ.toEquiv
Error: application type mismatch
  @ENormedAddCommMonoid.toAddCommMonoid 𝕜 _a NormedAddCommGroup.toENormedAddCommMonoid
argument
  NormedAddCommGroup.toENormedAddCommMonoid
has type
  @ENormedAddCommMonoid 𝕜 UniformSpace.toTopologicalSpace : Type u
but is expected to have type
  @ENormedAddCommMonoid 𝕜 _a : Type u
```

**Comment by grunweg** [comment]
This is ready for another look (and formally depends on #22562 now). I will look into merging `Normed/Group/Basic.lean` and `Normed/Group/Continuity.lean`

File: Mathlib/Analysis/Normed/Group/Continuity.lean
Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Continuity.lean:1]: Done in #22592 (which depends on the now re-borsed #22562).

Comment (YaelDillies) [reply Mathlib/Analysis/Normed/Group/Continuity.lean:1]: Will give it a look when it's ready

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by grunweg** [comment]
Thanks for the quick review!

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 15]
```diff
@@ -90,6 +91,36 @@ lemma enorm_eq_nnnorm (x : E) : ‖x‖ₑ = ‖x‖₊ := rfl
...
+/-- An enormed monoid is a monoid endowed with a continuous enorm. -/
+@[to_additive]
+class ENormedMonoid (E : Type*) [TopologicalSpace E] extends ContinuousENorm E, Monoid E where
+  enorm_eq_zero : ∀ x : E, ‖x‖ₑ = 0 ↔ x = 1
+  enorm_mul_le : ∀ x y : E, ‖x * y‖ₑ ≤ ‖x‖ₑ + ‖y‖ₑ
+
+/-- An enormed commutative monoid is an additive commutative monoid
+endowed with a continuous enorm.
+
+We don't have `ENormedAddCommGroup` extend `EMetricSpace`, since the canonical instance `ℝ≥0∞`
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/Group/Basic.lean:114]: Should this be `ENormedAddCommMonoid`?

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 16]
```diff
@@ -90,6 +91,36 @@ lemma enorm_eq_nnnorm (x : E) : ‖x‖ₑ = ‖x‖₊ := rfl
 
 end ENorm
 
+/-- A type `E` equipped with a continuous map `‖·‖ₑ : E → ℝ≥0∞`. -/
+class ContinuousENorm (E : Type*) [TopologicalSpace E] extends ENorm E where
+  continuous_enorm : Continuous enorm
+  -- Future: should one demand that the topology is somehow defined by the enorm?
+  -- For many applications, the current definition suffices.
```
Comment (sgouezel) [inline Mathlib/Analysis/Normed/Group/Basic.lean:98]: probably not, because that's not true for ennreal? Maybe add a comment about that?

Comment (grunweg) [reply Mathlib/Analysis/Normed/Group/Basic.lean:98]: Good idea! Added a comment.

**Comment by grunweg** [comment]
This is ready for review again.

**Comment by PatrickMassot** [comment]
bors merge
